US07186729B2
4-(4-fluorophenyl)-1-[3-(5,11-dihydro-7-hydroxy[1]benzoxepino[2,3-b]pyridin-5-ylidene)propyl]piperidine-4-ol
To a solution of 5-(3-bromopropylidene)-5,11-dihydro-7-hydroxy-[1]benzoxepino[2,3-b]pyridine (2.59 g) in DMF (10 ml) was added 4-(4-Fluorophenyl)-4-hydroxypiperidine (1.02 g) and triethylamine (835 μM). The solution was stirred at room temperature for 23 hours. The reaction was quenched with water, extracted with ethyl acetate, and evaporated in vacuo. The residue was purified by silica gel chromatography (87:10:3 ethyl acetate: methanol:triethylamine) to yield 0.9 g (39%) of the title compound. 1H-NMR (DMSO) d: 1.64–1.69 (2H, m), 1.74–1.85 (2H, m), 2.27–2.52 (8H, m), 4.81 (1H, s), 5.16 (2H, brs), 6.08 (1H, t), 6.62–6.71 (3H, m), 7.12 (2H, t), 7.40–7.51 (3H, m), 7.72 (1H, dd), 8.48 (1H, dd), 9.09 (1H, s). ESI-MS m/z: 447 (M+1).

reactant | 5-(3-bromopropylidene)-5,11-dihydro-7-hydroxy-[1]benzoxepino[2,3-b]pyridine | 2.59 g | BrCCC=C1CC2=C(OC3=NC=CC=C31)C=CC=C2O | C16H14BrNO2
reactant | 4-(4-Fluorophenyl)-4-hydroxypiperidine | 1.02 g | FC1=CC=C(C=C1)C1(CCNCC1)O | C11H14FNO
reactant | triethylamine | 835 μM | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluorophenyl)-1-[3-(5,11-dihydro-7-hydroxy[1]benzoxepino[2,3-b]pyridin-5-ylidene)propyl]piperidine-4-ol | 0.9 g, 39% | FC1=CC=C(C=C1)C1(CCN(CC1)CCC=C1CC2=C(OC3=NC=CC=C31)C=CC=C2O)O | C27H27FN2O3
